US06544985B2
(4-Fluoro-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-4-fluoro-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert.-butyl ester (Example J15) and 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example K4) according to the general procedure M. Obtained as a light yellow solid (126 mg).

reactant | (2-amino-4-fluoro-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)F)N)=O | C15H22FN3O2
reactant | 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O | C17H19NO4
product | (4-Fluoro-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C28H31FN4O5
